US05063228
3,4-Dihydro-2-methyl-4-[2-[4-(2-pyrimidinyl)-1-piperazinyl]ethyl]-pyrimido[1,6-a]benzimidazol-1(2H)-one.
To 60 mL of toluene was added 4.0 g (0.0152 mol) of 4-(2-chloroethyl)-3,4-dihydro-2-methylpyrimido[1,6-a]benzimidazol-1(2H)-one, 6.0 g (0.033 mol) of 1-(2-pyrimidyl)piperazine, and 4.0 g (0.04 mol) of triethylamine. The reaction mixture was heated at reflux for 2 days and subsequently washed with 2×50 mL of 1N NaOH, dried over Na2SO4, filtered, and concentrated by rotary evaporation. Crystallization from ethyl acetate afforded 4.0 g, 67% of analytically pure crystals, mp 161°-62° C.

reactant | 4-(2-chloroethyl)-3,4-dihydro-2-methylpyrimido[1,6-a]benzimidazol-1(2H)-one | 0.0152 mol, 4.0 g | ClCCC1CN(C(N2C1=NC1=C2C=CC=C1)=O)C | C13H14ClN3O
reactant | 1-(2-pyrimidyl)piperazine | 0.033 mol, 6.0 g | N1=C(N=CC=C1)N1CCNCC1 | C8H12N4
reactant | triethylamine | 0.04 mol, 4.0 g | C(C)N(CC)CC | C6H15N
solvent | toluene | 60 mL | C1(=CC=CC=C1)C | C7H8
product | 3,4-Dihydro-2-methyl-4-[2-[4-(2-pyrimidinyl)-1-piperazinyl]ethyl]-pyrimido[1,6-a]benzimidazol-1(2H)-one | CN1C(N2C(=NC3=C2C=CC=C3)C(C1)CCN1CCN(CC1)C1=NC=CC=N1)=O | C21H25N7O
